US07521461B2
Methyl 2-({4-[3-(4-hydroxyphenoxy)propyl]phenoxy}methyl)benzoate (0.32 g, 0.81 mmol) was dissolved in dichloromethane (10 ml) and cooled to −20° C. Triethylamine (0.123 g, 1.22 mmol) was added drop wise and methanesulfonyl chloride (0.10 g, 0.89 mmol) was added drop wise. The ice bath was removed and the mixture was wormed to room temperature. Diethyl ether (5 ml) was added and the precipitate was filtered off. The organic phase was washed with two portions of brine (5 ml) and dried (MgSO4). Removing the solvent by evaporation gave 0.37 gram of methyl 2-{[4-(3-{4-[(methylsulfonyl)oxy]-phenoxy}propyl)phenoxy]methyl}benzoate (yield 97.3%).

reactant | Methyl 2-({4-[3-(4-hydroxyphenoxy)propyl]phenoxy}methyl)benzoate | 0.81 mmol, 0.32 g | OC1=CC=C(OCCCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)C=C1 | C24H24O5
reactant | Triethylamine | 1.22 mmol, 0.123 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.89 mmol, 0.10 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 2-{[4-(3-{4-[(methylsulfonyl)oxy]-phenoxy}propyl)phenoxy]methyl}benzoate | 0.37 gram, yield 97.3% | CS(=O)(=O)OC1=CC=C(OCCCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)C=C1 | C25H26O7S
